US07582773B2
Step 2: Synthesis of 3-Benzyl-5-(4-methoxy-phenyl)-1-methyl-2-phenyl-1H-indole.
The desired product was prepared using a procedure similar to step 3 of example 3. Thus, 3-benzyl-5-bromo-1-methyl-2-phenyl-1H-indole (1.525 g, 4.053 mmol) was reacted with aqueous 2M K2CO3 (4.1 ml), 4-methoxyphenylboronic acid (0.862 g, 5.674 mmol) [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.099 g, 0.122 mmol) in dioxane (41 ml) to give the product (0.766 g, 1.898 mmol, 47%) as an off-white solid, mp 122-125° C. 1H NMR (DMSO-d6) δ 3.62 (s, 3H), 3.77 (s, 3H), 4.04 (s, 2H), 6.98 (d, J=8.6 Hz, 2H), 7.07-7.11 (m, 3H), 7.18 (t, J=7.8 Hz, 2H), 7.42 (dd, J=1.5, 8.6 Hz, 1H), 7.45-7.55 (m, 9H); [ESI(+)], m/z 405 (M+H)+.

reactant | 3-benzyl-5-bromo-1-methyl-2-phenyl-1H-indole | 4.053 mmol, 1.525 g | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)Br)C)C1=CC=CC=C1 | C22H18BrN
reactant | K2CO3 | 2M, 4.1 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | dichloromethane | 0.122 mmol, 0.099 g | ClCCl | CH2Cl2
solvent | dioxane | 41 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 5.674 mmol, 0.862 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-Benzyl-5-(4-methoxy-phenyl)-1-methyl-2-phenyl-1H-indole | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(C=C1)OC)C)C1=CC=CC=C1 | C29H25NO
